data/oMe_Silver.jsonl
{"reaction_id": "NR-111_1-CC_2-c1ccccc1_3-CCCC(C)C_4-C(F)(F)F_5-CC_6-c1ccccc1_7-c1ccccc1","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(C(F)(F)F)CC)(CCCC(C)C)C(CC)(c1ccccc1)[Si](C)(C)C","C(=O)(c1ccccc1)c1ccccc1","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(C(F)(F)F)CC)(CCCC(C)C)C(CC)(c1ccccc1)C(O)(c1ccccc1)c1ccccc1"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(c1ccccc1)c1ccccc1","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(CC)(c1ccccc1)[C+](CCCC(C)C)C(C(F)(F)F)(CC)C(O[Ti](Cl)(Cl)Cl)(c1ccccc1)c1ccccc1","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(F)(F)F)CC)(CCCC(C)C)C(CC)(c1ccccc1)C(O[Ti](Cl)(Cl)Cl)(c1ccccc1)c1ccccc1","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C(F)(F)F)CC)(CCCC(C)C)C(CC)(c1ccccc1)C(O)(c1ccccc1)c1ccccc1","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
{"reaction_id": "NR-326_1-C_2-c1ccc(F)cc1","level": "easy","name": "Wolff Rearrangement","reactants_smiles": ["C(C)(=O)C(=[N+]=[N-])c1ccc(F)cc1"],"products_smiles": ["O=C=C(c1ccc(F)cc1)C"],"conditions": "Heat, light, or metal catalyst (e.g., Ag2O)","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(=O)[C]c1ccc(F)cc1","step_weight": 0,"rationale": "Heating or catalysis promotes N₂ loss from the diazo group, favored by the excellent leaving ability of nitrogen and stabilization of the adjacent carbene by the carbonyl through resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=C(c1ccc(F)cc1)C","step_weight": 0,"rationale": "The electron-deficient carbene undergoes a 1,2-shift of C to stabilize via ketene formation, driven by conjugation between C=C=O and relief of carbene instability."}],"description": "Under thermal, photochemical, or metal-catalyzed conditions, the α-diazoketone loses nitrogen gas to form a reactive carbene. This intermediate undergoes a 1,2-shift, driven by carbene instability and the formation of a conjugated ketene, yielding the rearranged product."}
